data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c00121.json
{"doi": "10.1021_acs.orglett.3c00121", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical [2+1] cycloaddition of electron-rich alkenes with diazo compounds to give cyclopropanes, and [2+2] cycloaddition with styrenes to give cyclobutanes, both via anodically generated alkene radical cations", "mechanism_family": ["radical_anodic", "radical_cation", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of an electron-rich alkene (e.g., trans-anethole) to an electrophilic alkene radical cation; cathodic reduction of the downstream cyclopropyl/cyclobutyl radical cation closes the cycle", "key_intermediates": [{"name": "alkene radical cation of electron-rich styrene (e.g., anethole)", "smiles": null, "role": "reactive"}, {"name": "diazo-coupled distonic radical cation (D)", "smiles": null, "role": "transient"}, {"name": "cyclopropyl radical cation (E) after N2 extrusion", "smiles": null, "role": "transient"}, {"name": "cyclopropane product (F)", "smiles": null, "role": "reactive"}, {"name": "cyclobutanyl radical cation (H) from radical cation + styrene", "smiles": null, "role": "transient"}, {"name": "cyclobutane product (I)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes the electron-rich alkene A to radical cation B; B is attacked by the nucleophilic diazo compound C to give distonic radical cation D, which extrudes N2 to give cyclopropyl radical cation E, then cathodic reduction yields cyclopropane F. In the [2+2] manifold, B adds to a second styrene G to form cyclobutanyl radical cation H, which is reduced at the cathode (or via chain) to cyclobutane I.", "rate_determining_step": null, "probe_reagents": [{"name": "E/Z isomeric alkene substrates (stereochemical probe)", "smiles": null, "purpose": "other", "observation": "Both E and Z olefins converge to only trans-cyclopropanes, consistent with a stepwise radical-cation intermediate rather than a concerted pathway"}, {"name": "electricity on/off control", "smiles": null, "purpose": "redox_probe", "observation": "No product formed without applied current, confirming electrochemical initiation is essential"}, {"name": "tetrasubstituted/stilbene substrates with NO2", "smiles": null, "purpose": "redox_probe", "observation": "Electron-poor stilbene (NO2) still reactive (58%) because electrochemistry accesses oxidation potentials outside photoredox/Fe(III) window; tetrasubstituted olefin unreactive"}], "evidence_types_used": ["on/off_light_or_current", "stoichiometric_intermediate", "other"], "evidence_strength": "medium", "notes": "Authors explicitly note they cannot exclude a radical chain pathway in which radical cations E and H are reduced by an incoming neutral alkene (chain propagation) rather than at the cathode. Mechanism is proposed by analogy to prior Bauld/Ferreira/Kang radical-cation cycloadditions; no DFT, EPR, TEMPO trapping, or KIE experiments are reported."}
